### PR TITLE
feat: Add enumeration between list indicies and element-multiplicity pairs.

### PR DESCRIPTION
**Pull request by linesthatinterlace**
This PR adds functions which define an equivalence between the indices of a list and pairs of elements with multiplicities. We use the same functions to define maps between `Fin xs.length` and `Fin ys.length` which, which `xs` is a subperm of `ys`, are precisely the appropriate embedding. These are intended to have some practical use by linking list subperms and perms to injective/bijective maps between indices.

Depends on #1506, #1500.

### CODE REVIEW

File: Batteries/Data/List/Basic.lean [hunk 1]
```diff
@@ -236,7 +236,8 @@ also receives each element's index added to an optional parameter `start`
 (i.e. the numbers that `f` takes as its first argument will be greater than or equal to `start` and
 less than `start + l.length`).
 -/
-@[specialize] def foldlIdx (f : Nat → α → β → α) (init : α) : List β → (start : Nat := 0) → α
+@[specialize] def foldlIdx {α : Type u} {β : Type v} (f : Nat → α → β → α) (init : α) :
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean]: Batteries prefers autoimplicits.
```suggestion
@[specialize] def foldlIdx (f : Nat → α → β → α) (init : α) :
```

File: Batteries/Data/List/Basic.lean [hunk 2]
```diff
@@ -292,6 +301,24 @@ idxsOf a [a, b, a, a] 5 = [5, 7, 8]
 @[deprecated (since := "2025-11-06")]
 alias indexesOf := idxsOf
 
+/-- `idxOfNth p xs n` returns the index of the `n`th instance of `a` in `xs`. -/
+def idxOfNth [BEq α] (a : α) (xs : List α) (n : Nat) : Nat :=
+  xs.findIdxNth (· == a) n
+
+/-- `countPBefore p xs i hip` counts the number of `x` in `xs` before the `i`th index for
+which `p x = true`. -/
+def countPBefore (p : α → Bool) (xs : List α) (i : Nat) : Nat := go xs i 0 where
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean:327]: Not sure about the name. Isn't the point that it gives the index of the `i`th occurrence of `p`, when it exists? `countPBefore` doesn't convey that very well.

File: Batteries/Data/List/Basic.lean [hunk 3]
```diff
@@ -292,6 +301,24 @@ idxsOf a [a, b, a, a] 5 = [5, 7, 8]
...
+  /-- Auxiliary for `countPBefore`: `countPBefore.go p l i acc = countPBefore p l i + acc`. -/
+  @[specialize] go : (xs : List α) → (i : Nat) → (s : Nat) → Nat
+  | _ :: _, 0, s => s
+  | a :: xs, i + 1, s => go xs i (bif p a then s + 1 else s)
+  | [], _, s => s
+
+/-- `countBefore x xs n` counts the number of `x` in `xs` before the
+    `i`th index for which `x == a` is true. -/
+def countBefore [BEq α] (a : α) : List α → Nat → Nat :=
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean:342]: Same as above.

File: Batteries/Data/List/Count.lean [hunk 4]
```diff
@@ -20,13 +21,51 @@ open Nat
...
 /-! ### count -/
 
 section count
 
-variable [DecidableEq α]
+theorem count_singleton' [DecidableEq α] (a b : α) : count a [b] = if b = a then 1 else 0 :=
+  count_singleton.trans (by grind)
+
+theorem count_concat [BEq α] [LawfulBEq α] (a : α) (l : List α) :
+    count a (concat l a) = succ (count a l) := by simp
```
Comment (fgdorais) [inline Batteries/Data/List/Count.lean]: Why `succ` and not `+ 1`?

File: Batteries/Data/List/Basic.lean (hunk 2 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Basic.lean:327]: No: that is `findIdxNth`. `countPBefore`, given an index, counts the number of times `p` occurs before that index. It's `countP` but for a truncated list - countP p (take i xs) but you don't have to iterate over the list twice.

File: Batteries/Data/List/Basic.lean (hunk 3 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Basic.lean:342]: See above. It counts the number of times x occurs before the ith index.

File: Batteries/Data/List/Count.lean (hunk 4 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Count.lean]: Bad habit of using succ. This should be changed.

File: Batteries/Data/List/Basic.lean (hunk 2 above)
Comment (fgdorais) [reply Batteries/Data/List/Basic.lean:327]: Ah! I read the code too quickly!

Please add an example in the docstring and a corresponding test case in BatteriesTest. Thanks!

File: Batteries/Data/List/Basic.lean (hunk 3 above)
Comment (fgdorais) [reply Batteries/Data/List/Basic.lean:342]: Same response as above :) Thank you!

File: Batteries/Data/List/Count.lean (hunk 4 above)
Comment (fgdorais) [reply Batteries/Data/List/Count.lean]: Please change. Thank you!

File: Batteries/Data/List/Basic.lean (hunk 2 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Basic.lean:327]: Will do! And for the other stuff this defines.

File: Batteries/Data/List/Count.lean (hunk 4 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Count.lean]: I realise in fact this isn't me - it's just like this currently! I didn't add these lemmas. But I will fix anyway.

File: Batteries/Data/List/Basic.lean [hunk 5]
```diff
@@ -292,6 +306,38 @@ idxsOf a [a, b, a, a] 5 = [5, 7, 8]
...
+For example:
+```
+idxOfNth 1 [5, 1, 3, 2, 4, 0, 1, 4] 1 = 6
+```
+-/
+def idxOfNth [BEq α] (a : α) (xs : List α) (n : Nat) : Nat :=
+  xs.findIdxNth (· == a) n
+
+/-- `countPBefore p xs i hip` counts the number of `x` in `xs` before the `i`th index for
+which `p x = true`. For example:
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean]:
```suggestion
which `p x = true`.

For example:
```

File: Batteries/Data/List/Basic.lean [hunk 6]
```diff
@@ -292,6 +306,38 @@ idxsOf a [a, b, a, a] 5 = [5, 7, 8]
...
+-/
+def countPBefore (p : α → Bool) (xs : List α) (i : Nat) : Nat := go xs i 0 where
+  /-- Auxiliary for `countPBefore`: `countPBefore.go p l i acc = countPBefore p l i + acc`. -/
+  @[specialize] go : (xs : List α) → (i : Nat) → (s : Nat) → Nat
+  | _ :: _, 0, s => s
+  | a :: xs, i + 1, s => bif p a then go xs i (s + 1) else go xs i s
+  | [], _, s => s
+
+/-- `countBefore a xs n` counts the number of `x` in `xs` before the
+    `i`th index for which `x == a` is true. For example:
```
Comment (fgdorais) [inline Batteries/Data/List/Basic.lean]:
```suggestion
`i`th index for which `x == a` is true.

For example:
```

File: Batteries/Data/List/Count.lean [hunk 7]
```diff
@@ -20,13 +21,60 @@ open Nat
...
+theorem count_singleton' [DecidableEq α] (a b : α) : count a [b] = if b = a then 1 else 0 :=
+  count_singleton.trans (by grind)
+
+theorem count_concat [BEq α] [LawfulBEq α] (a : α) (l : List α) :
+    count a (concat l a) = count a l + 1 := by simp
+
+/-! ### idxToSigmaCount, sigmaCountToIdx -/
+
+/-- `idxToSigmaCount` is essentially a `Fin`-to-`Fin` wrapper for `countBefore` that also
+includes the corresponding element. For example:
```
Comment (fgdorais) [inline Batteries/Data/List/Count.lean]:
```suggestion
includes the corresponding element.

For example:
```

File: Batteries/Data/List/Count.lean [hunk 8]
```diff
@@ -20,13 +21,60 @@ open Nat
...
+theorem snd_idxToSigmaCount [BEq α] [ReflBEq α] {xs: List α} {i : Fin (xs.length)} :
+    (xs.idxToSigmaCount i).2 =
+    ⟨xs.countBefore xs[i.1] i, countBefore_lt_count_of_lt_length_of_beq _ BEq.rfl⟩ := rfl
+
+@[simp, grind =]
+theorem coe_snd_idxToSigmaCount [BEq α] [ReflBEq α] {xs: List α} {i : Fin (xs.length)} :
+    ((xs.idxToSigmaCount i).2 : Nat) = xs.countBefore xs[i.1] i := rfl
+
+/-- `sigmaCountToIdx` is a `_ × Fin`-to-`Fin` wrapper for `countBefore`.
+For example:
```
Comment (fgdorais) [inline Batteries/Data/List/Count.lean:61]:
```suggestion

For example:
```

File: Batteries/Data/List/Lemmas.lean [hunk 9]
```diff
@@ -12,6 +12,20 @@ public import Batteries.Data.List.Basic
 
 namespace List
 
+instance instNeZeroNatLengthCons {a : α} {l : List α} : NeZero (a :: l).length :=
+  ⟨Nat.succ_ne_zero _⟩
+
+/-! ### count -/
+theorem count_getElem_take_succ [BEq α] [EquivBEq α] {xs : List α}
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean:20]:
```suggestion

theorem count_getElem_take_succ [BEq α] [EquivBEq α] {xs : List α}
```

File: Batteries/Data/List/Lemmas.lean [hunk 10]
```diff
@@ -604,6 +618,116 @@ theorem unzip_findIdxsValues :
...
+theorem pos_findIdxNth_getElem {xs : List α} {hxs : xs.findIdxNth p n < xs.length} :
+    p xs[xs.findIdxNth p n] := by induction xs generalizing n <;> grind
+
+grind_pattern pos_findIdxNth_getElem => xs[xs.findIdxNth p n]
+
+theorem findIdxNth_zero : (xs : List α).findIdxNth p 0 = xs.findIdx p := by
+  induction xs <;> grind
+
+@[grind =>]
+theorem findIdxNth_lt_length_of_lt_countP {xs : List α} : n < xs.countP p →
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem findIdxNth_lt_length_of_lt_countP {xs : List α} (h : n < xs.countP p) :
```
(Or break line after colon.)

File: Batteries/Data/List/Lemmas.lean [hunk 11]
```diff
@@ -604,6 +618,116 @@ theorem unzip_findIdxsValues :
...
+    xs.findIdxNth p n < xs.length := by induction xs generalizing n <;> grind
+
+@[grind =>]
+theorem findIdxNth_eq_length_of_ge_countP {xs : List α} : xs.countP p ≤ n →
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: As above.

File: Batteries/Data/List/Lemmas.lean [hunk 12]
```diff
@@ -604,6 +618,116 @@ theorem unzip_findIdxsValues :
...
+theorem findIdxNth_le_length {xs : List α} :
+    xs.findIdxNth p n ≤ xs.length := by
+  by_cases n < xs.countP p <;>
+  grind [findIdxNth_lt_length_of_lt_countP, findIdxNth_eq_length_of_ge_countP]
+
+theorem findIdxNth_le_findIdxNth_iff {xs : List α} :
+    xs.findIdxNth p n ≤ xs.findIdxNth p m ↔ countP p xs ≤ m ∨ n ≤ m := by
+  induction xs generalizing n m with | nil | cons a xs IH
+  · grind
+  · cases h : p a <;> cases n <;> cases m <;> simp [h, IH]
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
  induction xs generalizing n m with
  | nil => grind
  | cons a xs IH => cases h : p a <;> cases n <;> cases m <;> simp [h, IH]
```

File: Batteries/Data/List/Lemmas.lean [hunk 13]
```diff
@@ -736,6 +860,236 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
     xs.idxOf x ∈ xs.idxsOf x := idxOf_add_mem_idxsOf 0 h
 
+/-! ### idxOfNth -/
+
+@[simp, grind =] theorem idxOfNth_nil [BEq α] : ([] : List α).idxOfNth x n = 0 := rfl
+
+@[grind =]
+theorem idxOfNth_cons [BEq α] {a : α} :
+    (a :: xs).idxOfNth x n = if n = 0 then if a == x then 0 else xs.idxOfNth x 0 + 1 else
+    if a == x then xs.idxOfNth x (n - 1)  + 1 else xs.idxOfNth x n + 1 := findIdxNth_cons
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: Hard to parse. Could you improve formatting?

File: Batteries/Data/List/Lemmas.lean [hunk 14]
```diff
@@ -736,6 +860,236 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+
+@[simp] theorem idxOfNth_cons_zero [BEq α] {a : α}  :
+    (a :: xs).idxOfNth x 0 = if a == x then 0 else xs.idxOfNth x 0 + 1 := by grind
+
+@[simp] theorem idxOfNth_cons_succ [BEq α] {a : α} :
+    (a :: xs).idxOfNth x (n + 1) = if a == x then xs.idxOfNth x n + 1 else
+    xs.idxOfNth x (n + 1) + 1 := by grind
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: Could you improve formatting? The `then` and `else` should be easier to identify at a quick glance.

File: Batteries/Data/List/Lemmas.lean [hunk 15]
```diff
@@ -736,6 +860,236 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+theorem idxOfNth_cons_succ_of_beq {a : α} [BEq α] (h : a == x) :
+    (a :: xs).idxOfNth x (n + 1) = xs.idxOfNth x n + 1 := by grind
+
+@[grind =]
+theorem getElem_idxOf_eq_idxOfNth_add {xs : List α} [BEq α] {hixs : n < (xs.idxsOf x s).length} :
+    (xs.idxsOf x s)[n] = xs.idxOfNth x n + s := by
+  induction xs generalizing n s <;> grind
+
+@[grind =]
+theorem getElem_idxOf_eq_idxOfNth {xs : List α} [BEq α] {hixs : n < (xs.idxsOf x).length} :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem getElem_idxOf_eq_idxOfNth {xs : List α} [BEq α] {h : n < (xs.idxsOf x).length} :
```
This is to help disambiguation when needed: `hixs` makes sense but it's hard to guess, `h` is standard.

File: Batteries/Data/List/Lemmas.lean [hunk 16]
```diff
@@ -736,6 +860,236 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+    (xs.idxsOf x)[n] = xs.idxOfNth x n := getElem_idxOf_eq_idxOfNth_add
+
+@[grind =>]
+theorem getElem_idxOfNth_beq {xs : List α} [BEq α] {hxs : xs.idxOfNth x n < xs.length} :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: As above: `hxs` -> `h`.

File: Batteries/Data/List/Lemmas.lean [hunk 17]
```diff
@@ -736,6 +860,236 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+    xs[xs.idxOfNth x n] == x := pos_findIdxNth_getElem (p := (· == x))
+
+grind_pattern getElem_idxOfNth_beq => xs[xs.idxOfNth x n]
+
+@[simp, grind =>]
+theorem getElem_idxOfNth_eq {xs : List α} [BEq α] [LawfulBEq α]
+    {hxs : xs.idxOfNth x n < xs.length} :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: As above: `hxs` -> `h`.

File: Batteries/Data/List/Lemmas.lean [hunk 18]
```diff
@@ -736,6 +860,236 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+    xs[xs.idxOfNth x n] = x := eq_of_beq getElem_idxOfNth_beq
+
+theorem idxOfNth_zero [BEq α] : (xs : List α).idxOfNth x 0 = xs.idxOf x := by
+  induction xs <;> grind
+
+@[grind =>]
+theorem idxOfNth_lt_length_of_lt_count {xs : List α} [BEq α] : n < xs.count x →
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: Formatting, see above.

File: Batteries/Data/List/Lemmas.lean [hunk 19]
```diff
@@ -736,6 +860,236 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+    xs.idxOfNth x n < xs.length := by induction xs generalizing n <;> grind
+
+@[grind =>]
+theorem idxOfNth_eq_length_of_ge_count {xs : List α} [BEq α] : xs.count x ≤ n →
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: Formatting, see above.

File: Batteries/Data/List/Lemmas.lean [hunk 20]
```diff
@@ -736,6 +860,236 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+
+@[simp, grind =] theorem countPBefore_zero :
+    (xs : List α).countPBefore p 0 = 0 := by grind [cases List]
+
+@[grind =]
+theorem countPBefore_succ :
+    (xs : List α).countPBefore p (i + 1) =
+    if h : xs = [] then 0 else
+    if p (xs.head h) then xs.tail.countPBefore p i + 1
+    else xs.tail.countPBefore p i := by grind [cases List]
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: How about:
```suggestion
    if h : xs = [] then 0
    else if p (xs.head h) then xs.tail.countPBefore p i + 1
    else xs.tail.countPBefore p i := by grind [cases List]
```

File: Batteries/Data/List/Lemmas.lean [hunk 21]
```diff
@@ -736,6 +860,236 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+
+theorem countPBefore_cons_succ_of_neg {a : α} (h : p a = false) :
+    (a :: xs).countPBefore p (i + 1) = xs.countPBefore p i := by grind
+theorem countPBefore_cons_succ_of_pos {a : α} (h : p a) :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean:984]:
```suggestion

theorem countPBefore_cons_succ_of_pos {a : α} (h : p a) :
```

File: Batteries/Data/List/Lemmas.lean [hunk 22]
```diff
@@ -736,6 +860,236 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+theorem idxOfNth_countBefore_of_lt_length_of_beq [BEq α] {xs : List α} (hi : i < xs.length)
+    (hip : xs[i] == x) : xs.idxOfNth x (xs.countBefore x i) = i :=
+  findIdxNth_countPBefore_of_lt_length_of_pos hi hip
+
+@[simp, grind =>]
+theorem idxOfNth_countBefore_getElem [BEq α] [ReflBEq α] {xs : List α}
+    {hi : i < xs.length} : xs.idxOfNth xs[i] (xs.countBefore xs[i] i) = i :=
+  idxOfNth_countBefore_of_lt_length_of_beq hi BEq.rfl
+
+theorem beq_iff_exists_findIdxNth [BEq α] {xs : List α} {hixs : i < xs.length} :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: As above: `hixs` -> `h`.

File: Batteries/Data/List/Lemmas.lean [hunk 23]
```diff
@@ -736,6 +860,236 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+    xs.countBefore x i ≤ xs.count x := by
+  induction xs generalizing i <;> cases i <;> grind
+
+@[grind =>]
+theorem countBefore_lt_count_of_lt_length_of_beq [BEq α] {xs : List α} (hi : i < xs.length)
+    (hip : xs[i] == x) : xs.countBefore x i < xs.count x :=
+  countPBefore_lt_countP_of_lt_length_of_pos _ hip
+
+@[simp, grind =>]
+theorem countBefore_lt_count_getElem [BEq α] [ReflBEq α] {xs : List α} {hi : i < xs.length} :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: Optional: `hi` -> `h`.

File: Batteries/Data/List/Perm.lean [hunk 24]
```diff
@@ -319,3 +320,141 @@ theorem perm_insertP (p : α → Bool) (a l) : insertP p a l ~ a :: l := by
...
+/-- `Subperm.idxInj` is an injective map from `Fin (xs.length)` to `Fin (ys.length)`
+which exists when we have `xs <+~ ys`: conceptually it represents an embedding of
+one list into the other. For example:
+```
+(by decide : [1, 0, 1] <+~ [5, 0, 1, 3, 1]).idxInj 1 = 1
+```
+-/
+def Subperm.idxInj [BEq α] [ReflBEq α] {xs ys : List α} (h : xs <+~ ys) :
+    Fin (xs.length) → Fin (ys.length) :=
+  ys.sigmaCountToIdx ∘ (fun xi => ⟨xi.1, xi.2.castLE (h.count_le _)⟩) ∘ xs.idxToSigmaCount
```
Comment (fgdorais) [inline Batteries/Data/List/Perm.lean]: Is there a way to avoid `∘` here?

File: Batteries/Data/List/Perm.lean [hunk 25]
```diff
@@ -319,3 +320,141 @@ theorem perm_insertP (p : α → Bool) (a l) : insertP p a l ~ a :: l := by
...
+  h.idxInj i = h.idxInj j ↔ i = j := h.idxInj_injective.eq_iff
+
+/-- `Sublist.idxOrderInj` is an order-preserving injective map from `Fin (xs.length)` to
+`Fin (ys.length)` which exists when we have `xs <+ ys`: conceptually it represents an
+order-preserving embedding of one list into the other. For example:
+```
+(by decide : [0, 1, 1] <+ [5, 0, 1, 3, 1]).idxInj 1 = 2
+```
+-/
+
```
Comment (fgdorais) [inline Batteries/Data/List/Perm.lean]:
```suggestion
```

File: Batteries/Data/List/Perm.lean [hunk 26]
```diff
@@ -319,3 +320,141 @@ theorem perm_insertP (p : α → Bool) (a l) : insertP p a l ~ a :: l := by
...
+    h.subperm.idxInj = h.idxOrderInj := rfl
+
+@[simp, grind =]
+theorem Sublist.coe_idxOrderInj [BEq α] [ReflBEq α] {xs ys : List α} (h : xs <+ ys)
+    {i : Fin (xs.length)} :
+    (h.idxOrderInj i : Nat) = ys.idxOfNth xs[i] (xs.countBefore xs[i] i) := rfl
+
+theorem Sublist.getElem_idxOrderInj_eq_getElem [BEq α] [LawfulBEq α] {xs ys : List α}
+    (h : xs <+ ys) {i : Fin (xs.length)} :
+  ys[(h.idxOrderInj i : Nat)] = xs[(i : Nat)] := getElem_idxOfNth_eq
```
Comment (fgdorais) [inline Batteries/Data/List/Perm.lean]:
```suggestion
    ys[(h.idxOrderInj i : Nat)] = xs[(i : Nat)] := getElem_idxOfNth_eq
```

File: Batteries/Data/List/Perm.lean [hunk 27]
```diff
@@ -319,3 +320,141 @@ theorem perm_insertP (p : α → Bool) (a l) : insertP p a l ~ a :: l := by
...
+
+theorem Sublist.idxOrderInj_injective [BEq α] [LawfulBEq α] {xs ys : List α}
+    (h : xs <+ ys) : h.idxOrderInj.Injective := Subperm.idxInj_injective _
+
+@[simp]
+theorem Sublist.idxOrderInj_inj [BEq α] [LawfulBEq α] {xs ys : List α}
+    {h : xs <+ ys} (i j : Fin (xs.length)) :
+  h.idxOrderInj i = h.idxOrderInj j ↔ i = j := h.idxOrderInj_injective.eq_iff
```
Comment (fgdorais) [inline Batteries/Data/List/Perm.lean]:
```suggestion
    h.idxOrderInj i = h.idxOrderInj j ↔ i = j := h.idxOrderInj_injective.eq_iff
```

File: Batteries/Data/List/Lemmas.lean (hunk 14 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Lemmas.lean]: I think I have improved it but it is quite hard to know what the best way is.

File: Batteries/Data/List/Perm.lean (hunk 24 above)
Comment (wrenna-robson) [reply Batteries/Data/List/Perm.lean]: One of the annoying things is that Sigma.map is in Mathlib and that would be more natural here really. I will try and improve it.

Comment (wrenna-robson) [reply Batteries/Data/List/Perm.lean]: See what you think.

Comment (fgdorais) [reply Batteries/Data/List/Perm.lean]: At a glance, it looks like Mathlib.Data.Sigma.Basic could be upstreamed as-is.

Comment (fgdorais) [reply Batteries/Data/List/Perm.lean]: I think I would use this
```lean
  match  xs.idxToSigmaCount i with
  | ⟨x, t⟩ => ys.sigmaCountToIdx ⟨x, t, Nat.lt_of_lt_of_le t.isLt <| h.count_le _⟩
```
instead of the `let` but it doesn't make much of a difference here. I approve your new version.

File: Batteries/Data/List/Lemmas.lean [hunk 28]
```diff
@@ -692,7 +820,7 @@ theorem le_getElem_idxsOf [BEq α] (h : i < ((xs : List α).idxsOf x s).length)
     s ≤ (xs.idxsOf x s)[i] := by grind [getElem_mem]
 
 @[simp, grind =>]
-theorem getElem_idxsOf_lt [BEq α] (h : i < ((xs : List α).idxsOf x s).length) :
+theorem getElem_idxsOf_lt [BEq α] (h : i < ((xs : List α).idxsOf x s).length)  :
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem getElem_idxsOf_lt [BEq α] (h : i < ((xs : List α).idxsOf x s).length) :
```

File: Batteries/Data/List/Lemmas.lean [hunk 29]
```diff
@@ -736,6 +864,241 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+
+@[simp, grind =] theorem idxOfNth_nil [BEq α] : ([] : List α).idxOfNth x n = 0 := rfl
+
+@[grind =]
+theorem idxOfNth_cons [BEq α] {a : α} :
+    (a :: xs).idxOfNth x n =
+    if n = 0 then
+    if a == x then 0 else xs.idxOfNth x 0 + 1
+    else if a == x then xs.idxOfNth x (n - 1) + 1
+    else xs.idxOfNth x n + 1 := findIdxNth_cons
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]: I think this is slightly easier to parse.
```suggestion
    if n = 0 then if a == x then 0 else xs.idxOfNth x 0 + 1
    else if a == x then xs.idxOfNth x (n - 1) + 1
    else xs.idxOfNth x n + 1 := findIdxNth_cons
```

File: Batteries/Data/List/Lemmas.lean [hunk 30]
```diff
@@ -736,6 +864,241 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+    else xs.idxOfNth x (n + 1) + 1 := by grind
+
+@[grind =]
+theorem idxOfNth_cons_of_not_beq {a : α} [BEq α] (h : (a == x) = false) :
+    (a :: xs).idxOfNth x n = xs.idxOfNth x n + 1 := by grind
+
+@[grind =]
+theorem idxOfNth_cons_of_beq {a : α} [BEq α] (h : a == x) :
+    (a :: xs).idxOfNth x n = if n = 0 then 0 else xs.idxOfNth x (n - 1) + 1 := by grind
+@[grind =]
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion

@[grind =]
```

File: Batteries/Data/List/Lemmas.lean [hunk 31]
```diff
@@ -736,6 +864,241 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+theorem idxOfNth_cons_zero_of_beq {a : α} [BEq α] (h : a == x) :
+    (a :: xs).idxOfNth x 0 = 0 := by grind
+@[grind =]
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion

@[grind =]
```

File: Batteries/Data/List/Lemmas.lean [hunk 32]
```diff
@@ -736,6 +864,241 @@ theorem idxOf_add_mem_idxsOf [BEq α] (s : Nat) (h : (xs : List α).idxOf x < xs
...
+    (a :: xs).countBefore x i =
+    if i = 0 then 0 else if a == x then xs.countBefore x (i - 1) + 1
+    else xs.countBefore x (i - 1) := countPBefore_cons
+
+@[simp] theorem countBefore_zero [BEq α] : (xs : List α).countBefore p 0 = 0 := countPBefore_zero
+
+@[simp] theorem countBefore_cons_succ {a : α} [BEq α] :
+    (a :: xs).countBefore x (i + 1) = xs.countBefore x i + if a == x then 1 else 0 := by grind
+
+theorem countBefore_cons_succ_of_not_beq  [BEq α] {a : α} (h : (a == x) = false):
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean]:
```suggestion
theorem countBefore_cons_succ_of_not_beq [BEq α] {a : α} (h : (a == x) = false) :
```

File: Batteries/Data/List/Perm.lean [hunk 33]
```diff
@@ -319,3 +320,140 @@ theorem perm_insertP (p : α → Bool) (a l) : insertP p a l ~ a :: l := by
...
+    Fin (xs.length) → Fin (ys.length) := h.subperm.idxInj
+
+@[simp, grind =]
+theorem Perm.subperm_idxBij [BEq α] [ReflBEq α] {xs ys : List α} (h : xs ~ ys) :
+    h.subperm.idxInj = h.idxBij := rfl
+
+@[simp, grind =]
+theorem Perm.coe_idxBij [BEq α] [ReflBEq α] {xs ys : List α} (h : xs ~ ys)
+    {i : Fin (xs.length)} :
+    (h.idxBij i : Nat) = ys.idxOfNth xs[i] (xs.countBefore xs[i] i) := rfl
```
Comment (fgdorais) [inline Batteries/Data/List/Perm.lean]:
```suggestion
    {i : Fin (xs.length)} : (h.idxBij i : Nat) = ys.idxOfNth xs[i] (xs.countBefore xs[i] i) := rfl
```

**Comment by linesthatinterlace** [comment]
All done I think. I added some LeftInverse/RightInverse/Injective/Surjective lemmas I missed also. I plan to add some stuff to Mathlib once it's downstream of this but I think this is all good for Batteries for now.

**Comment by fgdorais** [comment]
The Mathlib build fails: https://github.com/leanprover-community/mathlib4-nightly-testing/tree/batteries-pr-testing-1507

**Comment by linesthatinterlace** [comment]
This is very strange. The proof of `erase_getElem` is no longer working as grind times out - but I am not sure why. Presumably I added something to the grind set that made it break...?

**Comment by linesthatinterlace** [comment]
I have adjusted the grind attributes as I suspect some of the ones I had set were firing in places they shouldn't be. We'll see if that helps with Mathlib.
